US07355049B2
N-Bromosuccinimide (Aldrich; 1.70 g, 9.6 mmol) and a catalytic amount of benzoyl peroxide were added to a solution of 5-methyl-thiophene-2-carboxylic acid methyl ester (1.40 g, 9.0 mmol) in chloroform (15 mL). The rection mixture was stirred under argon at reflux (˜60° C.) for 3 h, then filtered through Celite™ and evaporated under reduced pressure to give 5-bromomethyl-thiophene-2-carboxylic acid methyl ester (2 g) as a yellow oil which was used directly in the next step without further purification.

reactant | N-Bromosuccinimide | 9.6 mmol, 1.70 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 5-methyl-thiophene-2-carboxylic acid methyl ester | 9.0 mmol, 1.40 g | COC(=O)C=1SC(=CC1)C | C7H8O2S
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-bromomethyl-thiophene-2-carboxylic acid methyl ester | 2 g | COC(=O)C=1SC(=CC1)CBr | C7H7BrO2S
